US04940710
1-Ethyl-5,6,8-trifluoro-1,4-dihydro-4-oxo-7-(4-thiomorpholinyl)-3-quinolinecarboxylic acid
A 289 mg portion of 1-ethyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid was dissolved in 3 ml of 1-methyl-2-pyrrolidone. A 350 mg portion of thiomorpholine was added and the mixture was stirred for 2 hours. Ether was added, the solid collected and recrystallized from acetone, giving 250 mg of the desired product as a white solid, mp 308°-310° C.

reactant | 1-ethyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C12H7F4NO3
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
reactant | Ether | CCOCC | C4H10O
solvent | 1-methyl-2-pyrrolidone | 3 ml | CN1C(CCC1)=O | C5H9NO
product | 1-Ethyl-5,6,8-trifluoro-1,4-dihydro-4-oxo-7-(4-thiomorpholinyl)-3-quinolinecarboxylic acid | 250 mg | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CCSCC1)F)F)=O)C(=O)O | C16H15F3N2O3S
